* Test DC mode support for MAX, MIN and PP Measures
*
* This bug covers:
*   1) the case of one variable in the .DC line, 
*      without a .STEP statement.
*
*   2) An ascending sweep variable.
*
*   3) The use of OUTPUT=SV (and output=sv to check
*      that there is no case sensitivity).  OUTPUT=SV
*      will output the value of the first variable in
*      the DC sweep vector at which the max/min occurs.
*
* Also test that .MEAS is a synonym for .MEASURE
*
* See SON Bug 884 for more details.
********************************************************

vsrc1   1a 0 1
rload1a 1a 1b 0.1
rload1b 1b 0 1

.DC vsrc1 1 5 1

* Note: vsrc1:DCV0 is the syntax for printing the DC value of vsrc1,
* at it is swept. 
.print dc vsrc1:DCV0 v(1a) v(1b)
.PREPROCESS REPLACEGROUND TRUE

* MAX measure
.meas dc maxv1b   max v(1b)
.measure dc maxv1bgnd max v(1b,GND)
.measure dc maxFrom max v(1b) FROM=4
.measure dc maxTo max v(1b) TO=4

* these measures should get the same answer
.measure dc maxv1bFT max v(1b) FROM=4 TO=2
.measure dc maxv1bTF max v(1b) FROM=2 TO=4

.measure dc maxv1bsv max v(1b) OUTPUT=SV

* MIN measure
.MEAS dc minv1b   min v(1b)
.measure dc minFrom min v(1b) FROM=4
.measure dc minTo min v(1b) TO=4

* these measures should get the same answer
.MEASURE dc minv1bFT min v(1b) FROM=4 TO=2
.MEASURE dc minv1bTF min v(1b) FROM=2 TO=4

.measure dc minv1bsv min v(1b) output=sv

* PP measure
.measure dc ppv1b   pp v(1b)
.measure dc ppFrom pp v(1b) FROM=4
.measure dc ppTo pp v(1b) TO=4

* these measures should get the same answer
.measure dc ppv1bFT pp v(1b) FROM=4 TO=2
.measure dc ppv1bTF pp v(1b) FROM=2 TO=4

* Tests should return -1 or -100, since the FROM-T0 window 
* does not overlap with the stepped values for VSRC1:DCV0
.measure dc maxReturnNegOne max v(1b) FROM=-4 TO=-2
.measure dc maxReturnNeg100 max v(1b) FROM=-2 TO=-4 DEFAULT_VAL=-100
.measure dc minReturnNegOne min v(1b) FROM=6 TO=8
.measure dc minReturnNeg100 min v(1b) FROM=8 TO=6 DEFAULT_VAL=-100
.measure dc ppReturnNegOne pp v(1b) FROM=-4 TO=-2
.measure dc ppReturnNeg100 pp v(1b) FROM=-4 TO=-2 DEFAULT_VAL=-100

.end


